US06699904B2
To a beaker containing saturated NaHCO3 (10 mL) and impure [4-(1-heptylaminomethyl-cyclopropyl)-phenyl]-methanol (˜3.35 mmol) dissolved in tetrahydrofuran (2 mL) was added di-tert-butyl dicarbonate (6.7 mmol, 1.46 g). To the stirred solution was added 2M NaOH in order to keep the pH of the solution between 8 and 9. The mixture was allowed to stir at room temperature for 1 h. The mixture was extracted with diethyl ether (3×). The organic layers were combined, washed with brine (1×), dried over anhydrous sodium sulfate, and concentrated to a clear oil. The crude oil was purified by flash chromatography (Merck silica gel 60, art#9385-3) eluting with 5% methanol/methylene chloride, then 30% ethyl acetate/hexanes) to give heptyl-[1-(4-hydroxymethyl-phenyl)-cyclopropylmethyl]-carbamic acid tert-butyl ester as a clear oil (850 mg, 68%).

reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
reactant | [4-(1-heptylaminomethyl-cyclopropyl)-phenyl]-methanol | ˜3.35 mmol | C(CCCCCC)NCC1(CC1)C1=CC=C(C=C1)CO | C18H29NO
reactant | di-tert-butyl dicarbonate | 6.7 mmol, 1.46 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaOH | 2M | [OH-].[Na+]
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | heptyl-[1-(4-hydroxymethyl-phenyl)-cyclopropylmethyl]-carbamic acid tert-butyl ester | 850 mg, 68% | C(C)(C)(C)OC(N(CC1(CC1)C1=CC=C(C=C1)CO)CCCCCCC)=O | C23H37NO3
